US07615549B2
(a) Benzyl [(3R,4R)-4-methyl-5-oxo-tetrahydrofuran-3-yl]-carbamate
272 μl (1.9 mmol) diisopropylamine are placed in 3 ml THF and while cooling with ice 1.2 ml (1.9 mmol) of an n-butyllithium solution in hexane (1.6M) are added. The mixture is stirred for 10 minutes at 0° C., then cooled to −78° C. and a solution of 200 mg (0.85 mmol) benzyl (R)-(5-oxo-tetrahydrofuran-3-yl)-carbamate in 1 ml THF is added dropwise. The mixture is stirred for one hour at −78° C. Then 210 μl (3.3 mmol) methyl iodide are added dropwise, and the mixture is heated to −60° C. within one hour. Then 0.5 ml sat. ammonium chloride solution is added and the mixture is heated to ambient temperature. Water is added and the mixture is extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated to dryness. The residue is taken up in DMF, acidified with TFA and purified by reversed-phase chromatography.

reactant | diisopropylamine | 1.9 mmol, 272 μl | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.9 mmol, 2 ml | C(CCC)[Li]
reactant | benzyl (R)-(5-oxo-tetrahydrofuran-3-yl)-carbamate | 0.85 mmol, 200 mg | O=C1C[C@H](CO1)NC(OCC1=CC=CC=C1)=O | C12H13NO4
reactant | methyl iodide | 3.3 mmol, 210 μl | CI | CH3I
reactant | ammonium chloride | 0.5 ml | [Cl-].[NH4+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | ice 1 | C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)OC3[C@H]4COC(=O)[C@@H]4[C@@H](C5=CC6=C(C=C35)OCO6)C7=CC(=C(C(=C7)OC)O)OC)O)O.C1CN(P(=O)(OC1)NCCCl)CCCl.[NH2-].[NH2-].Cl[Pt+2]Cl
solvent | Water | O | H2O
product | Benzyl [(3R,4R)-4-methyl-5-oxo-tetrahydrofuran-3-yl]-carbamate | C[C@@H]1[C@H](COC1=O)NC(OCC1=CC=CC=C1)=O | C13H15NO4
